US07964607B2
6-[(3S,4S)-4-methyl-1-(quinolin-4-ylmethyl)pyrrolidin-3-yl]-1-(tetrahydro-2H-pyran-4-yl)-1,5-dihydro-4H-pyrazolo[3,4-d]pyrimidin-4-one
Following the procedure for the preparation of 6-{(3S,4S)-4-methyl-1-[(2-methylpyrimidin-5-yl)methyl]pyrrolidin-3-yl}-1-(tetrahydro-2H-pyran-4-yl)-1,5-dihydro-4H-pyrazolo[3,4-d]pyrimidin-4-one but substituting quinoline-4-carbaldehyde provided the title compound. 400 MHz 1H NMR (CDCl3) δ 10.68 (brs, 1H), 8.83 (d, J=4.1 Hz, 1H), 8.25-8.22 (m, 1H), 8.12-8.08 (m, 1H), 7.98 (s, 1H), 7.75-7.72 (m, 1H), 7.54 (d, J=3.3 Hz, 1H), 7.36 (d, J=3.3 Hz, 1H), 5.21 (m, 1H), 4.77 (m, 1H), 4.13-4.06 (m, 3H), 3.59-3.52 (m, 2H), 3.32 (d, J=8.7 Hz, 1H), 3.03 (d, J=9.9 Hz, 1H), 2.88-2.86 (m, 1H), 2.72-2.69 (m, 1H), 2.36-2.28 (m, 3H), 2.04-2.00 (m, 1H), 1.89-1.84 (m, 2H), 1.20 (d, J=7.1 Hz, 3H). MS: (M+H m/z 445.1).

reactant | 6-{(3S,4S)-4-methyl-1-[(2-methylpyrimidin-5-yl)methyl]pyrrolidin-3-yl}-1-(tetrahydro-2H-pyran-4-yl)-1,5-dihydro-4H-pyrazolo[3,4-d]pyrimidin-4-one | C[C@H]1[C@@H](CN(C1)CC=1C=NC(=NC1)C)C=1NC(C2=C(N1)N(N=C2)C2CCOCC2)=O | C21H27N7O2
reactant | quinoline-4-carbaldehyde | N1=CC=C(C2=CC=CC=C12)C=O | C10H7NO
product | 6-[(3S,4S)-4-methyl-1-(quinolin-4-ylmethyl)pyrrolidin-3-yl]-1-(tetrahydro-2H-pyran-4-yl)-1,5-dihydro-4H-pyrazolo[3,4-d]pyrimidin-4-one | C[C@H]1[C@@H](CN(C1)CC1=CC=NC2=CC=CC=C12)C=1NC(C2=C(N1)N(N=C2)C2CCOCC2)=O | C25H28N6O2
